US07524853B2
2-(2-Bromo-3-hydroxy-4,5-dimethoxyphenyl)-3-butyl-8-hydroxy-6-methyl-3H-benzo[4,5]thieno[2,3-d]pyrimidin-4-one
3-Butyl-2-(2-bromo-3,4,5-trimethoxyphenyl)-8-hydroxy-6-methyl-3H-benzo[4,5]thieno[2,3-d]pyrimidin-4-one (compound No. 694) (40 mg) was stirred with HBr in acetic acid (1 ml) for five days. Saturated sodium sulphate solution was added and the product was extracted into ethyl acetate. After washing with water and brine, the solvent was evaporated and the precipitate was purified by chromatography using dichloromethane-methanol 99:1 as an eluent. Compound No. 696 was isolated as a by-product.

reactant | 3-Butyl-2-(2-bromo-3,4,5-trimethoxyphenyl)-8-hydroxy-6-methyl-3H-benzo[4,5]thieno[2,3-d]pyrimidin-4-one | C(CCC)N1C(=NC2=C(C1=O)C1=C(S2)C(=CC(=C1)C)O)C1=C(C(=C(C(=C1)OC)OC)OC)Br | C24H25BrN2O5S
reactant | HBr | Br | BrH
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 2-(2-Bromo-3-hydroxy-4,5-dimethoxyphenyl)-3-butyl-8-hydroxy-6-methyl-3H-benzo[4,5]thieno[2,3-d]pyrimidin-4-one | BrC1=C(C=C(C(=C1O)OC)OC)C=1N(C(C2=C(N1)SC1=C2C=C(C=C1O)C)=O)CCCC | C23H23BrN2O5S
